US05827849
b) 3-Hydroxy-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine dihydrochloride
Prepared from 4-ethoxycarbonyl-3-hydroxy-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine by treatment with hydrochloric acid at 130° C.

reactant | 4-ethoxycarbonyl-3-hydroxy-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine | C(C)OC(=O)C1=C(N=CC=2CCN(CCC21)CC)O | C14H20N2O3
reactant | hydrochloric acid | Cl | ClH
product | 3-Hydroxy-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine dihydrochloride | Cl.Cl.OC1=CC2=C(CCN(CC2)CC)C=N1 | InChI=1S/C11H16N2O.2ClH/c1-2-13-5-3-9-7-11(14)12-8-10(9)4-6-13;;/h7-8H,2-6H2,1H3,(H,12,14);2*1H
